US06686353B1
Preparation of 1-Benzyl-4-(3,3-diphenylpropyl)homopiperazine (Compound No. 15)
The resulting benzyihomopiperazine was dissolved in 3 mL of ethanol, to which were added 296 mg of 3,3-diphenylpropyl methanesulfonate and 136 mg of potassium carbonate. The mixture was stirred at 70° C. for 15 hours and it was cooled to room temperature and the solvent was removed under reduced pressure. 20 mL of aqueous 2N sodium hydroxide was added and the solution was extracted with 20 mL×2 of ethyl acetate. The organic layers were combined and washed with 20 mL of saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, filtered, concentrated, and purified by column chromatography (silica gel, ethyl acetate) to obtain 135 mg of the titled compound. This was treated with a hydrogen chloride solution in ether followed by removing the solvent under reduced pressure and drying to give the hydrochloride salt of the titled compound.

reactant | benzyihomopiperazine | C(C1=CC=CC=C1)N1CCNCCC1 | C12H18N2
reactant | 3,3-diphenylpropyl methanesulfonate | 296 mg | CS(=O)(=O)OCCC(C1=CC=CC=C1)C1=CC=CC=C1 | C16H18O3S
reactant | potassium carbonate | 136 mg | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 1-Benzyl-4-(3,3-diphenylpropyl)homopiperazine | 135 mg | C(C1=CC=CC=C1)N1CCN(CCC1)CCC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H32N2
